US07439354B2
Preparation of 2,6-dimethyl-7a-(6-methylheptyl)-tetrahydro-2H-oxazolo[2,3-b]oxazole.
To a 1 liter stirred reactor, equipped with a distillation column, condenser, and graduated receiver, the following constituents were added: 331.2 g of diisopropanol amine (DIPA) and 390.5 g (98%) of isononanoic acid. The contents were heated to 180° C. under a nitrogen blanket. After 3.5 hours, 43.4 g of water was collected overhead. The pressure was then slowly lowered to strip out unreacted DIPA. At a batch temperature of 183° C. and a pressure of 60 Pa, a cut consisting of 188 g of DIPA was removed. The batch temperature was then raised to 200° C. and the pressure dropped 333 Pa. During this period, a cut of 220 g of the amide acetal was recovered. The water of reaction passed through the condenser and was not captured with the amide acetal. This represents a 35% conversion of the isononanoic acid to amide acetal.

reactant | diisopropanol amine | 331.2 g | CC(CNCC(C)O)O | C6H15NO2
reactant | isononanoic acid | 390.5 g | C(CCCCCC(C)C)(=O)O | C9H18O2
product | 2,6-dimethyl-7a-(6-methylheptyl)-tetrahydro-2H-oxazolo[2,3-b]oxazole | CC1CN2C(OC(C2)C)(O1)CCCCCC(C)C | C15H29NO2
